US09120822B2
A solution of 3-benzyloxy-6-methoxy-[1,5]naphthyridine-4-carboxylic acid amide (640 mg, 2.07 mmol, 1.0 eq) in tetrahydrofuran (50 mL) is added at room temperature to a flask charged with Schwartz's reagent (800 mg, 3.1 mmol, 1.5 eq) and the resulting mixture is stirred at room temperature for 10 minutes. Solvent is removed to give a crude that is purified by column chromatography (silica gel, eluent: petroleum ether:ethyl acetate, 1:1, v/v) to afford a mixture of aldehyde and alcohol. This mixture is dissolved in methanol (20 mL) and sodium borohydride (39 mg, 1.03 mmol, 0.5 eq) is added at room temperature. After 5 minutes stirring at room temperature, solvent is removed to give a crude that is purified by column chromatography (silica gel, eluent: petroleum ether:ethyl acetate, 4:1, v/v) to afford (3-benzyloxy-6-methoxy-[1,5]naphthyridine-4-yl)-methanol as a white solid (390 mg, 64% yield).

reactant | 3-benzyloxy-6-methoxy-[1,5]naphthyridine-4-carboxylic acid amide | 2.07 mmol, 640 mg, 1.0 eq | C(C1=CC=CC=C1)OC=1C=NC2=CC=C(N=C2C1C(=O)N)OC | C17H15N3O3
reactant | sodium borohydride | 1.03 mmol, 39 mg, 0.5 eq | [BH4-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
catalyst | Schwartz's reagent | 3.1 mmol, 800 mg, 1.5 eq | [H-].[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Cl-].[Zr+4]
product | (3-benzyloxy-6-methoxy-[1,5]naphthyridine-4-yl)-methanol | 390 mg, 64% yield | C(C1=CC=CC=C1)OC=1C=NC2=CC=C(N=C2C1CO)OC | C17H16N2O3
